US07230023B2
(1) 3-Methyl-1,2-benzenedimethanol
A solution of the 7-methyl-1(3H)-isobenzofuranone obtained above in tetrahydrofuran (80 ml) was cooled to 0° C., and lithium borohydride (1.90 g, 87.2 mmol) was added thereto. The mixture was stirred at 60° C. for 2 hours, then cooled to 0° C., and a 2N aqueous solution of hydrochloric acid (50 ml) was added dropwise. The product was extracted with ethyl acetate, and the solvent was evaporated under reduced pressure to give an oily residue. The residue was subjected to chromatography on a silica gel (75 g) column (eluent; ethyl acetate:hexane=2:1˜1:0) to afford the title compound (4.17 g, 19% total yield from methyl 2,6-dimethylbenzoate) as an oil.

reactant | 7-methyl-1(3H)-isobenzofuranone | CC=1C=CC=C2COC(C12)=O | C9H8O2
reactant | lithium borohydride | 87.2 mmol, 1.90 g | [BH4-].[Li+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-Methyl-1,2-benzenedimethanol | 4.17 g, 19% | CC1=C(C(=CC=C1)CO)CO | C9H12O2
